US05130468
(4S)-4-(t-Butyloxycarbonylamino)-5-phenyl-1-penten-3-one
Vinylmagnesium bromide (1M in tetrahydrofuran) was cooled under N2 atmosphere to -10° C. and treated in portions with 10 g (37.7 mmol) of N-(t-butyloxycarbonyl)-L-phenylalanine. The resulting solution was stirred at -10° C. for 5 h, and poured into a rapidly stirring mixture of ice, 10% aqueous citric acid and ether. The mixture was separated, and the organic phase was washed sequentially with water, two portions of aqueous NaHCO3, and saturated brine; dried over MgSO4 ; and concentrated in vacuo. Silica gel chromatography of the residue using 4:1 hexane:ethyl acetate provided 3.63 g (35%) of the desired compound (Rf 0.33, 3:1 hexane:ethyl acetate). 1H NMR (CDCl3) δ 1.41 (s, 9 H), 2.98 (dd, J=14, 6 Hz, 1 H), 3.15 (dd, J=14, 6 Hz, 1 H), 4.86 (q, J=8 Hz, 1 H), 5.23 (br d, 1 H), 5.85 (dd, J=9, 2 Hz, 1 H), 6.35 (dd, J=18, 2 Hz, 1 H), 6.45 (dd, J=18, 9 Hz, 1 H), 7.10 (br d, 2 H), 7.25 (m, 3 H). Mass spectrum: (M+H)+ =276.

reactant | Vinylmagnesium bromide | 1M | C(=C)[Mg]Br
reactant | N-(t-butyloxycarbonyl)-L-phenylalanine | 37.7 mmol, 10 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ether | CCOCC | C4H10O
product | (4S)-4-(t-Butyloxycarbonylamino)-5-phenyl-1-penten-3-one | 3.63 g, 35% | C(C)(C)(C)OC(=O)N[C@H](C(C=C)=O)CC1=CC=CC=C1 | C16H21NO3
